US07652061B2
C. (R)-1-(3-Hydroxy-phenylsulfanylcarbonyl)-pyrrolidine-2-carboxylic acid ethyl ester
To the title B compound, (R)-1-[3-(t-butyl-dimethyl-silanyloxy)-phenylsulfanyl-carbonyl]-pyrrolidine-2-carboxylic acid ethyl ester (1.5 g, 3.66 mmol) in a flask at RT, is added 1 M solution of n-tetrabutylammonium fluoride (14.6 mL, 14.6 mmol) in THF and the reaction is stirred for 4 h. The reaction mixture is concentrated at reduced pressure, diluted with ethyl acetate, washed with water and brine, dried over anhydrous magnesium sulfate and concentrated. The crude (R)-1-(3-hydroxy-phenylsulfanylcarbonyl)-pyrrolidine-2-carboxylic acid ethyl ester is used in the next step without further purification.

reactant | (R)-1-[3-(t-butyl-dimethyl-silanyloxy)-phenylsulfanyl-carbonyl]-pyrrolidine-2-carboxylic acid ethyl ester | 3.66 mmol, 1.5 g | C(C)OC(=O)[C@@H]1N(CCC1)C(=O)SC1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C | C20H31NO4SSi
solvent | THF | C1CCOC1 | C4H8O
product | (R)-1-(3-Hydroxy-phenylsulfanylcarbonyl)-pyrrolidine-2-carboxylic acid ethyl ester | C(C)OC(=O)[C@@H]1N(CCC1)C(=O)SC1=CC(=CC=C1)O | C14H17NO4S
